US06576626B2
Sodium hydride (1.4 g, 57.1 mmol) was suspended in THF (50 mL) in a pressure flask under a nitrogen atmosphere and cooled to −10° C. with stirring. Ethyl (1,1-diethoxyethyl)phosphinate (10.0 g, 47.6 mmol) in THF (20 mL) was added dropwise to the mixture over 10 minutes; the internal temperature was maintained below 0° C. during the addition. On completion of addition, the reaction mixture was allowed to stir at this temperature for 90 minutes. The flask was cooled to −78° C. and chlorofluoromethane gas (9.7 g, 142.8 mmol) was condensed into the reaction mixture. The septum was removed and the flask was sealed with a screw thread stopper. The flask was then allowed to warm to room temperature and then heated at 50° C. for 24 h. The reaction mixture was cooled to 0° C. and cautiously quenched with water (25 mL). Methylene chloride (50 mL) was added to the reaction mixture and the emulsion was filtered through a pad of Celite® (20 g). The aqueous phase was extracted with methylene chloride (2×100 mL), dried over anhydrous magnesium sulfate, and the organic phase was concentrated under reduced pressure affording the crude product as a pale yellow oil (6.93 g). The crude residue was purified by silica gel column chromatography (6×25 cm column) eluting with 20% acetone in hexanes. This procedure afforded ethyl (fluoromethyl)(1,1-diethoxyethyl)phosphinate as a clear, colorless oil (4.4 g, 42%). 1H NMR (300 MHz, CDCl3) δ4.94-4.54 (m, 2H), 4.32-4.20 (m, 2H), 3.82-3.54 (m, 4H), 1.60-1.44 (m, 3H), 1.40-1.28 (m, 3H), 1.26-1.08 (m, 6H).

reactant | Sodium hydride | 57.1 mmol, 1.4 g | [H-].[Na+]
reactant | Ethyl (1,1-diethoxyethyl)phosphinate | 47.6 mmol, 10.0 g | C(C)OC(C)(OCC)P(OCC)=O | C8H19O4P
reactant | chlorofluoromethane | 142.8 mmol, 9.7 g | ClCF | CH2ClF
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | ethyl (fluoromethyl)(1,1-diethoxyethyl)phosphinate | FCP(OCC)(=O)C(C)(OCC)OCC | C9H20FO4P
